US07618990B2
Step 4: 4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile
To a mixture of triethylamine (0.42 mL, 3 mmol) and 4-[2-(2-hydroxy-1,1-dimethyl-ethylamino)-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile (0.75 g, 2.71 mmol), prepared in the previous step, in dry tetrahydrofuran (10 mL) was added triphosgene (0.83 g, 2.8 mmol) at room temperature. After 16 h, the mixture was poured into water/ethyl acetate. The organic layer was washed with water, dried (anhydrous sodium sulfate) and evaporated. The product was purified by silica gel column chromatography (ethyl acetate:hexanes, 1:4) to afford the title compound (0.29 g, 36%) as a white powder. HRMS: calcd for C14H14N4O2S [M+H]+, 303.09102; found (ESI, [M+H]+), 303.0914; ANLC 99.6% at 210-370 nm, 9.0 min; 99.5% at 260 nm, 9.0 min, the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | triethylamine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(2-hydroxy-1,1-dimethyl-ethylamino)-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 2.71 mmol, 0.75 g | OCC(C)(C)NC=1SC=C(N1)C=1C=C(N(C1)C)C#N | C13H16N4OS
reactant | triphosgene | 2.8 mmol, 0.83 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.29 g, 36% | CC1(N(C(OC1)=O)C=1SC=C(N1)C=1C=C(N(C1)C)C#N)C | C14H14N4O2S
